US08378104B2
Step A: 7-bromo-1,2,3-benzothiadiazole-5-carbonitrile
A mixture of 7-bromo-5-iodo-1,2,3-benzothiadiazole (22 mg, 0.0645 mmol), zinc cyanide (7.58 mg, 0.0645 mmol), Pd(PPh3)4 (7.46 mg, 0.00645 mmol) and DMF (2 mL) was heated to 60° C. for 4 h. The solution was extracted with EtOAc (50 mL), and the organic fraction was washed with saturated aqueous sodium bicarbonate solution (3×50 mL). The organic fraction was adsorbed onto silica gel and purified by ISCO chromatography (3 to 5% EtOAc:heptane) to afford 14 mg (90%) of the title compound as a white solid. 1H NMR (400 MHz, CDCl3): δ 8.03 (d, J=1.0 Hz, 1 H), 8.92 (d, J=1.3 Hz, 1 H).

reactant | 7-bromo-5-iodo-1,2,3-benzothiadiazole | 0.0645 mmol, 22 mg | BrC1=CC(=CC=2N=NSC21)I | C6H2BrIN2S
reactant | DMF | 2 mL | CN(C)C=O | C3H7NO
catalyst | zinc cyanide | 0.0645 mmol, 7.58 mg | [C-]#N.[Zn+2].[C-]#N
catalyst | Pd(PPh3)4 | 0.00645 mmol, 7.46 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 7-bromo-1,2,3-benzothiadiazole-5-carbonitrile | 14 mg, 90% | BrC1=CC(=CC=2N=NSC21)C#N | C7H2BrN3S
